US06090813
N-Benzylpiperazine (40.0 ml) was added in one portion to a solution of succinimido 1-t-butoxycarbonylpiperidine-4-carboxylate (75.0 g) in dry dichloromethane (1600 ml). The solution was stirred at ambient temperature under an atmosphere of argon for 17 hours. The solution was washed with water (500 ml) and saturated brine (250 ml). The organic layer was dried (Na2SO4) and evaporated. The residual oil was purified by chromatography on alumina, eluting with dichloromethane to give 1-benzyl-4-[(1-t-butoxycarbonyl-4-piperidyl)carbonyl]piperazine as an oil;

reactant | N-Benzylpiperazine | 40.0 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | succinimido 1-t-butoxycarbonylpiperidine-4-carboxylate | 75.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)ON1C(CCC1=O)=O | C15H22N2O6
solvent | dichloromethane | 1600 ml | ClCCl | CH2Cl2
product | 1-benzyl-4-[(1-t-butoxycarbonyl-4-piperidyl)carbonyl]piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C22H33N3O3
